US06413995B1
A solution of 4-[2-(methoxycarbonyl)ethyl]cinnamic acid (2.38 g), thionyl chloride (0.82 ml) and dimethylformamide (2 drops) in 50 ml dichloromethane was heated at reflux for 30 minutes. After evaporation of dichloromethane and low-boiling components, the residue was dried under reduced pressure to give a solid, which was then dissolved in 20 ml ethyl acetate and stirred with 1.10 g of 3-picolylamine in 20 ml ethyl acetate at room temperature for 30 minutes. After the reaction mixture was washed with saturated aqueous sodium bicarbonate, the resulting aqueous layer was extracted with 40 ml ethyl acetate. The combined organic layers were washed with saturated aqueous sodium carbonate and brine, and then dried over sodium sulfate. The drying agent was filtered off and the solvent was evaporated to give crude crystals (3.23 g), which were then recrystallized from ethyl acetate to provide methyl 3-[4-[(E)-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl]propionate (2.82 g, 86%) as colorless plate crystals.

reactant | 4-[2-(methoxycarbonyl)ethyl]cinnamic acid | 2.38 g | COC(=O)CCC1=CC=C(C=CC(=O)O)C=C1 | C13H14O4
reactant | thionyl chloride | 0.82 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-picolylamine | 1.10 g | N1=CC(=CC=C1)CN | C6H8N2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-[4-[(E)-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl]propionate | 2.82 g, 86% | N1=CC(=CC=C1)CNC(=O)/C=C/C1=CC=C(C=C1)CCC(=O)OC | C19H20N2O3
